US07491732B2
2-Chloro-5-fluoro-N4-[4-(prop-2-ynyloxy)phenyl]-4-pyrimidineamine (0.514 g, 1.85 mmol), 3-(aminosulfonyl)-4-methylaniline (0.689 g, 3.70 mmol), and trifluoroacetic acid (0.186 mL, 2.41 mmol) were combined with iPrOH (6.0 mL) in a sealed vial and heated at 100° C. for 3 h. The reaction mixture was cooled to room temperature and diluted with 1N HCl (80 mL). N2-(3-Aminosulfonyl-4-methylphenyl)-5-fluoro-N4-[4-(prop-2-ynyloxy)phenyl]-2,4-pyrimidinediamine VI-53) was isolated as a white solid by suction filtration (0.703 g). 1H NMR (DMSO-d6): δ 10.08 (bs, 2H), 8.19 (d, J=4.5 Hz, 1H), 7.89 (s, 1H), 7.74 (dd, J=2.4 and 8.4 Hz, 1H), 7.58 (d, J=8.7 Hz, 2H), 7.32 (bs, 2H), 7.23 (d, J=8.4 Hz, 1H), 6.97 (d, J=8.4 Hz, 2H), 4.79 (d, J=2.1 Hz, 2H), 3.59-3.55 (m, 1H), 2.53 (s, 3H); LCMS: purity: 97%; MS (m/e): 428 (MH+).

reactant | 2-Chloro-5-fluoro-N4-[4-(prop-2-ynyloxy)phenyl]-4-pyrimidineamine | 1.85 mmol, 0.514 g | ClC1=NC=C(C(=N1)NC1=CC=C(C=C1)OCC#C)F | C13H9ClFN3O
reactant | 3-(aminosulfonyl)-4-methylaniline | 3.70 mmol, 0.689 g | NS(=O)(=O)C=1C=C(N)C=CC1C | C7H10N2O2S
reactant | trifluoroacetic acid | 2.41 mmol, 0.186 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | iPrOH | 6.0 mL | CC(C)O | C3H8O
solvent | HCl | 1N, 80 mL | Cl | ClH
product | N2-(3-Aminosulfonyl-4-methylphenyl)-5-fluoro-N4-[4-(prop-2-ynyloxy)phenyl]-2,4-pyrimidinediamine | NS(=O)(=O)C=1C=C(C=CC1C)NC1=NC=C(C(=N1)NC1=CC=C(C=C1)OCC#C)F | C20H18FN5O3S
